US09283229B2
Step 1: Synthesis of 2-ethoxy-4-formyl-6-nitrophenyl trifluoromethanesulfonate
To a solution of 3-ethoxy-4-hydroxy-5-nitrobenzaldehyde (5.0 g, 23.7 mmol) and triethylamine (11.9 g, 118.5 mmol) in anhydrous DCM (70 mL) was added trifluoromethanesulfonic anhydride (10.0 g, 35.6 mmol) dropwise at 0° C. The mixture was stirred under N2 atmosphere for 1 hr. The reaction was quenched with water (100 mL), followed by a standard aqueous/EtOAc workup. The residue was purified by silica gel column chromatography (PE:EtOAc=50:1 to PE:EtOAc=5:1) (6.2 g, yield 76%).

reactant | 3-ethoxy-4-hydroxy-5-nitrobenzaldehyde | 23.7 mmol, 5.0 g | C(C)OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C9H9NO5
reactant | triethylamine | 118.5 mmol, 11.9 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 35.6 mmol, 10.0 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 2-ethoxy-4-formyl-6-nitrophenyl trifluoromethanesulfonate | yield 76% | FC(S(=O)(=O)OC1=C(C=C(C=C1[N+](=O)[O-])C=O)OCC)(F)F | C10H8F3NO7S
